US06583157B2
2-Chloro-6-nitro-benzenethiol (202)
To a solution of 2,3-dichloronitrobenzene (Aldrich, 19.2 g, 100 mmol) in 300 mL of DMSO was added powdered Na2S 9H2O (Aldrich, 24.0 g, 100 mmol). The mixture was stirred at ambient temperature for 24 h, then was diluted with 2 L of water. The mixture was clarified by filtration and the filtrate was acidified to pH 4 with con. HCl. The mixture was extracted 3× with Et2O (400 mL). The organic layers were combined and washed twice with a brine solution (400 mL), dried over Na2SO4. Removal of the solvent under reduced pressure gave 18.4 g product.

reactant | 2,3-dichloronitrobenzene | 100 mmol, 19.2 g | ClC1=C(C=CC=C1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | DMSO | 300 mL | CS(=O)C | C2H6OS
solvent | water | 2 L | O | H2O
product | 2-Chloro-6-nitro-benzenethiol | 18.4 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])S | C6H4ClNO2S
